US06417200B1
C) N1-(3-cyanobenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine
A mixture of N-(3-cyanobenzoyl)-2-nitro-4-(dimethyl-t-butylsiloxy)aniline (5.00 g, 12.6 mmol), 10% Pd/C (2.5 g), EtOH (160 mL), and THF (160 mL) was hydrogenated at 1 atm for 12 h. The reaction was filtered through diatomaceous earth with hot methanolic washes. The filtrate was concentrated and chromatographed (20% EtOAc/hexanes to 30% EtOAc/hexanes) to give the title compound as a solid (2.72 g, 59%).

reactant | N-(3-cyanobenzoyl)-2-nitro-4-(dimethyl-t-butylsiloxy)aniline | 12.6 mmol, 5.00 g | C(#N)C=1C=C(C(=O)NC2=C(C=C(C=C2)O[Si](C(C)(C)C)(C)C)[N+](=O)[O-])C=CC1 | C20H23N3O4Si
reactant | EtOH | 160 mL | CCO | C2H6O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | N1-(3-cyanobenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine | 2.72 g, 59% | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O[Si](C(C)(C)C)(C)C)N)C=CC1 | C20H25N3O2Si
